US07504382B2
N-Methyl-4-Nitro-Butyramide
To a sealed reaction vessel was added methyl 4-nitrobutyrate (1.00 g, 6.80 mmol) and methylamine (2.0 M methylamine in MeOH, 50.0 mL, 100 mmol). The resulting yellow solution was stirred at room temperature for 20 h. The solvent was evaporated and the residue was purified by flash chromatography (silica gel, load: CH2Cl2, elution with EtOAc:Hexanes, 1:1) to give the title product (0.97 g, 98%) as a white solid. 1H NMR (CDCl3): 5.84 (br s, NH, 1H), 4.54-4.48 (m, 2H), 2.82 (d, J=4.7 Hz, 3H), 2.36-2.32 (m, 4H).

reactant | methyl 4-nitrobutyrate | 6.80 mmol, 1.00 g | [N+](=O)([O-])CCCC(=O)OC | C5H9NO4
reactant | methylamine | 100 mmol, 2.0 M, 50.0 mL | CN | CH5N
product | N-Methyl-4-Nitro-Butyramide | 0.97 g, 98% | CNC(CCC[N+](=O)[O-])=O | C5H10N2O3
